US05232898
A solution of 18.51 g of ethyl 3-amino-4,4,4-trifluorocrotonate in 50 ml of dimethylformamide is added dropwise while stirring at 0° C. during 30 minutes to 4.41 g of a 55% sodium hydride dispersion in 100 ml of dimethylformamide and the mixture is stirred at room temperature for 2 hours. The reaction mixture is then cooled to -55° C. and treated during 3 minutes while stirring with a solution of 25.10 g of 6-fluoro-5-isocyanato-3-(2-propynyl)-2-benzothiazolinone in 200 ml of dimethylformamide/toluene (1:1). In so doing, the temperature of the reaction mixture rises to -15° C. and the mixture is subsequently stirred at room temperature for one hour. The thus-formed intermediate 5-{3-[2-(ethoxycarbonyl)-1-trifluoromethyl-vinyl]ureido}-6-fluoro-3-(2-propynyl)-2-benzothiazolinone is not isolated.

reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 18.51 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 6-fluoro-5-isocyanato-3-(2-propynyl)-2-benzothiazolinone | 25.10 g | FC1=CC2=C(N(C(S2)=O)CC#C)C=C1N=C=O | C11H5FN2O2S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide toluene | 200 ml | CN(C=O)C.C1(=CC=CC=C1)C
product | 5-{3-[2-(ethoxycarbonyl)-1-trifluoromethyl-vinyl]ureido}-6-fluoro-3-(2-propynyl)-2-benzothiazolinone | C(C)OC(=O)C=C(C(F)(F)F)NC(NC=1C(=CC2=C(N(C(S2)=O)CC#C)C1)F)=O | C17H13F4N3O4S
